US07772269B2
Step 3: Preparation of 5-(4-bromophenyl)-1-methyl-1H-pyrazole
4-bromoacetophenone (20.0 g; 0.10 mole) and N,N-dimethylformamide dimethylacetal (28.5 mL; 0.20 mole) were mixed together in DMF (12 mL) and heated to 110° C. for 4 hours. The methanol and water that were generated during the reaction were distilled (6.2 mL). The mixture was cooled to 25° C. Methyl t-butyl ether (100 mL) and methylhydrazine (21.2 mL; 0.40 moles) were added and the mixture was stirred over night. The reaction mixture was washed with 1 M aqueous ammonium chloride (3×40 mL) and water (40 mL). The organic phase was dried by azeotropic distillation using a Dean-Stark apparatus. As an alternative to distillation, the solution was dried through an anhydrous magnesium sulfate cartridge. The solution was filtered through a silica gel cartridge (60 g). The product was flushed from the cartridge with methyl t-butyl ether. The fraction(s) containing product were combined and concentrated to about 70 mL by distillation. Heptane (120 mL) was added and distillation was continued until the pot temperature reached 98.4° C. About 100 mL of distillate was collected. The mixture was cooled to 40° C. The mixture was seeded and the temperature was maintained at 40° C. for 30 minutes while crystallization was initiated. The mixture was slowly chilled to 0° C. over 90 minutes. The mixture was held at 0° C. for 30 minutes. The mixture was filtered and the solid was washed (3×) with chilled (0° C.) heptane. The solid was dried on the filter. A cream-colored, crystalline solid (16.3 g; 68% yield) was obtained. The NMR data of the title compound are as per alternative 1.

reactant | 4-bromoacetophenone | 0.10 mole, 20.0 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | N,N-dimethylformamide dimethylacetal | 0.20 mole, 28.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | methanol | CO | CH4O
reactant | methylhydrazine | 0.40 moles, 21.2 mL | CNN | CH6N2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | Methyl t-butyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
solvent | water | O | H2O
product | 5-(4-bromophenyl)-1-methyl-1H-pyrazole | 68% yield | BrC1=CC=C(C=C1)C1=CC=NN1C | C10H9BrN2
